US08067445B2
Step 3: (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-amine
Prepared according to the procedure described in Example 33, Step 4, using the following starting materials: 2-bromo-5-(trifluoromethyl)benzaldehyde and ethylamine (2M in THF).

reactant | 2-bromo-5-(trifluoromethyl)benzaldehyde | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | ethylamine | 2M | C(C)N | C2H7N
product | (2-Bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
